US07102000B2
6-Methoxy-1-(4-methoxy-benzyl-3,3,5-trimethyl-1,3-dihydro-indol-2-one (640 mg, 1.97 mmol) was mixed with acetic acid (0.7 mL)and 48% hydrobromic acid (7 mL) and heated to reflux 12 hours. The solution was cooled to 0° C. and aqueous Na2CO3 was added to adjust to pH=7 then extracted with EtOAc, washed with brine, dried over MgSO4, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane: EtOAc/4:1 to 1:1) to give 280 mg of 6-Hydroxy-3,3,5-trimethyl-1,3-dihydro-indol-2-one (74%). 1H NMR (300 MHz, DMSO-d6, ppm): δ: 1.15 (s, 6 H), 2.026.34 (s,1 H), 6.89 (s, 1 H), 9.21 (s,1 H), 10.01(s, 1 H).

reactant | 4-methoxy-benzyl-3,3,5-trimethyl-1,3-dihydro-indol-2-one | 1.97 mmol, 640 mg | COC1=CC=C(CN2C(C(C3=CC(=CC=C23)C)(C)C)=O)C=C1 | C19H21NO2
reactant | hydrobromic acid | 7 mL | Br | BrH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 0.7 mL | C(C)(=O)O | C2H4O2
product | 6-Hydroxy-3,3,5-trimethyl-1,3-dihydro-indol-2-one | 280 mg, 74% | OC1=C(C=C2C(C(NC2=C1)=O)(C)C)C | C11H13NO2
